US08003658B2
(74-1) Preparation of 3-amino-N-[4-(1-phenyl-ethylamino)-quinazolin-6-yl]-propionamide
250 mg of 2-[4-(1-phenyl-ethylamino)-quinazolin-6-ylcarbamoyl]-ethyl-carbamic acid t-butylester dissolved in 5 ml of methylene chloride was reacted with 5 ml of trifluoroacetic acid at room temperature for 4 hours. The residue obtained from distillation of the reacted solution under a reduced pressure was stirred in 50 ml of saturated aqueous sodium bicarbonate solution for 30 mins, filtered under a reduced pressure, and dried to obtain the title compound (90 mg, 52%).

reactant | 2-[4-(1-phenyl-ethylamino)-quinazolin-6-ylcarbamoyl]-ethyl-carbamic acid t-butylester | 250 mg | C(C)(C)(C)OC(NCCC(NC=1C=C2C(=NC=NC2=CC1)NC(C)C1=CC=CC=C1)=O)=O | C24H29N5O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | sodium bicarbonate | 50 ml | C([O-])(O)=O.[Na+]
product | 3-amino-N-[4-(1-phenyl-ethylamino)-quinazolin-6-yl]-propionamide | 90 mg, 52% | NCCC(=O)NC=1C=C2C(=NC=NC2=CC1)NC(C)C1=CC=CC=C1 | C19H21N5O
